US07087632B2
A solution of 3-fluoro-4-nitrophenol (2 mmol) and methanesulfonate of 3-diethylamino-1-propanol (2.5 mmol) in DMF (4 mL) is added with K2CO3 (4 mmol) and heated following the general procedure III (Step A). The product, 2-fluoro-4-(3-diethylamino-1-propoxy)nitrobenzene is obtained (470 mg) after purification using silica gel column chromatography.

reactant | 3-fluoro-4-nitrophenol | 2 mmol | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 3-diethylamino-1-propanol | 2.5 mmol | C(C)N(CCCO)CC | C7H17NO
reactant | K2CO3 | 4 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-4-(3-diethylamino-1-propoxy)nitrobenzene | FC1=C(C=CC(=C1)OCCCN(CC)CC)[N+](=O)[O-] | C13H19FN2O3
